US04057647
33.4 ml. of a 70% solution of NaA1(OCH2CH2OCH3)2H2 in benzene is added dropwise to a stirred mixture of 28.8 g. of 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid methyl ester and 100 ml. of benzene and the reaction mixture is stirred overnight at 80° . The mixture is poured into 130ml. of 20% H2SO4, stirred for one hour and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)2-buten-1-ol.

reactant | 3-(2',4'-difluoro-4-biphenylyl)-2-butenoic acid methyl ester | COC(C=C(C)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F)=O | C17H14F2O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(2',4'-difluoro-4-biphenylyl)2-buten-1-ol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(=CCO)C | C16H14F2O
